US06875765B2
Step 4: (S)-3-{4-Amino-2-[(R)-1-methyl-2-(2-methylsulfanyl-benzoimidazol-1-yl)-ethoxy]-benzenesulfonylamino-}4,4-diethoxy-butyric acid tert-butyl ester
To a 0° C. solution of (S)-3-(4-amino-2-hydroxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester (200 mg, 0.48 mmol), (2S)-1-[2-(methylsulfanyl)-1H-benzo[d]imidazol-1-yl]propan-2-ol (150 mg, 0.67 mmol) and resin bound triphenyl phosphine (1 g, 1 mmol) in THF (5 mL) was added diisopropyl azodicarboxylate (600 uL, 3 mmol). This mixture was shaken at room temperature for 2 h. TLC 50% ethyl acetate/heptane shows no phenol rf 0.2. The reaction mixture was filtered, the resin was washed with dichloromethane, the organics were combined, the solvent was evaporated under reduced pressure. (S)-3-{4-amino-2-[(R)-1-methyl-2-(2-methylsulfanyl-benzoimidazol-1-yl)-ethoxy]-benzenesulfonylamino}-4,4-diethoxy-butyric acid tert-butyl ester was purified by silica gel chromatography ethyl acetate/heptane (132 mg, 44%). RP-HPLC (10 to 9O % acetonitrile in 0.1 N aqueous ammonium acetate over 10 min at 2 mL/min using a Waters Symmetry C18 150×4.6 mm column) 9.8 min.

reactant | (S)-3-(4-amino-2-hydroxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester | 0.48 mmol, 200 mg | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)N)O)=O | C18H30N2O7S
reactant | (2S)-1-[2-(methylsulfanyl)-1H-benzo[d]imidazol-1-yl]propan-2-ol | 0.67 mmol, 150 mg | CSC1=NC2=C(N1C[C@H](C)O)C=CC=C2 | C11H14N2OS
reactant | triphenyl phosphine | 1 mmol, 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 3 mmol, 600 uL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
product | (S)-3-{4-Amino-2-[(R)-1-methyl-2-(2-methylsulfanyl-benzoimidazol-1-yl)-ethoxy]-benzenesulfonylamino-}4,4-diethoxy-butyric acid tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)N)O[C@@H](CN1C(=NC2=C1C=CC=C2)SC)C)=O | C29H42N4O7S2
